US05498609
To a suspension of 6-(2-methylbenzoylamino)nicotinic acid (0.3 g) in dimethylformamide (0.5 ml) and dichloromethane (2.5 ml) is added dropwise oxazolyl chloride (0.2 ml), and the mixture is stirred at room temperature for 2 hours. The mixture is evaporated under reduced pressure to remove the solvent to give 6-(2-methylbenzoylamino)nicotinoyl chloride.

reactant | 6-(2-methylbenzoylamino)nicotinic acid | 0.3 g | CC1=C(C(=O)NC2=NC=C(C(=O)O)C=C2)C=CC=C1 | C14H12N2O3
reactant | oxazolyl chloride | 0.2 ml | O1C(=NC=C1)Cl | C3H2ClNO
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | 6-(2-methylbenzoylamino)nicotinoyl chloride | CC1=C(C(=O)NC2=NC=C(C(=O)Cl)C=C2)C=CC=C1 | C14H11ClN2O2
